US08669266B2
(v) 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester
To a solution of 5.0 g of 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid and 9.1 g of 4-((S)-2-Amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid butyl ester in 50 ml of DMF, 3.7 g of HOBT and 4.7 g of EDC was added and the reaction mixture was stirred for 4 h at RT. Then, the reaction mixture was diluted with water and extracted with ethyl acetate. The combined organic phases were dried over MgSO4 and the solvents were removed under reduced pressure. The isolated crude product was used in the next reaction step. Yield: 12.6 g.

reactant | 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid | 5.0 g | OC1=CC(=NC2=CC(=CC=C12)C)C(=O)O | C11H9NO3
reactant | 4-((S)-2-Amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid butyl ester | 9.1 g | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)N)=O | C18H33N3O5
reactant | HOBT | 3.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 4.7 g
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C)=O | C29H40N4O7
